US04673676
To a solution of ethyl 10-amino-7-methyl-4-oxo-4H-pyrimido[2,1-a]isoquinoline-3-carboxylate (1.5 g) in pyridine (110 ml) was added 2,3-dimethylpentanoyl chloride (1.4 g) under ice cooling. After stirring for 2 hours at ambient temperature, the reaction mixture was concentrated in vacuo. The residue in chloroform (100 ml) was washed with water, a cold 1N hydrochloric acid and water in turn and dried over magnesium sulfate. After removal of the solvent, the residue was chromatographed on a silica gel column using chloroform as an eluent to give ethyl 10-(2,3-dimethylpentanoylamino)-7-methyl-4-oxo-4H-pyrimido[2,1-a]isoquinoline-3-carboxylate (1.94 g).

reactant | ethyl 10-amino-7-methyl-4-oxo-4H-pyrimido[2,1-a]isoquinoline-3-carboxylate | 1.5 g | NC1=CC=C2C(=CN3C(C2=C1)=NC=C(C3=O)C(=O)OCC)C | C16H15N3O3
reactant | 2,3-dimethylpentanoyl chloride | 1.4 g | CC(C(=O)Cl)C(CC)C | C7H13ClO
solvent | pyridine | 110 ml | N1=CC=CC=C1 | C5H5N
product | ethyl 10-(2,3-dimethylpentanoylamino)-7-methyl-4-oxo-4H-pyrimido[2,1-a]isoquinoline-3-carboxylate | 1.94 g | CC(C(=O)NC1=CC=C2C(=CN3C(C2=C1)=NC=C(C3=O)C(=O)OCC)C)C(CC)C | C23H27N3O4
